US06008230
To a suspension of 8-(2,6-dichlorobenzoylamino)-6-methyl-4-(2-isopropylidenehydrazino)quinoline (159 mg) in methanol (5 ml) was added sodium cyanoborohydride (25 mg) and acetic acid (50 mg), and the mixture was stirred at ambient temperature for 24 hours. The mixture was concentrated to dryness and the residue was triturated with water (5 ml) and filtered. The solid was treated with hot water (5 ml), allowed to cool to ambient temperature, filtered and washed with water to give 8-(2,6-dichlorobenzoylamino)-6-methyl-4-(2-isopropylhydrazino)quinoline (117 mg) as pale yellow powder.

reactant | 8-(2,6-dichlorobenzoylamino)-6-methyl-4-(2-isopropylidenehydrazino)quinoline | 159 mg | ClC1=C(C(=O)NC=2C=C(C=C3C(=CC=NC23)NN=C(C)C)C)C(=CC=C1)Cl | C20H18Cl2N4O
reactant | sodium cyanoborohydride | 25 mg | C(#N)[BH3-].[Na+]
reactant | acetic acid | 50 mg | C(C)(=O)O | C2H4O2
solvent | methanol | 5 ml | CO | CH4O
product | 8-(2,6-dichlorobenzoylamino)-6-methyl-4-(2-isopropylhydrazino)quinoline | 117 mg | ClC1=C(C(=O)NC=2C=C(C=C3C(=CC=NC23)NNC(C)C)C)C(=CC=C1)Cl | C20H20Cl2N4O
